US06730792B2
To a solution of 2-fluoro-6-iodoanisole (Justus Liebigs, Ann. Chem., 746:134, 1971; 4.31 g, 17.1 mmol) in dichloromethane (35 ml) is added a 1M solution of boron tribromide in dichloromethane (18.2 ml). The mixture is kept under argon and stirred for 4 hours at room temperature. The mixture is poured into a saturated aqueous sodium bicarbonate solution and the aqueous layer is extracted with ethyl acetate. The combined organic layers are dried over sodium sulfate and concentrated under reduced pressure to give 2-fluoro-6-iodophenol (4.2 g).

reactant | 2-fluoro-6-iodoanisole | 17.1 mmol, 4.31 g | FC1=C(C(=CC=C1)I)OC | C7H6FIO
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 35 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 18.2 ml | ClCCl | CH2Cl2
product | 2-fluoro-6-iodophenol | 4.2 g | FC1=C(C(=CC=C1)I)O | C6H4FIO
